US06369070B1
N-t-Butyloxycarbonyl-3-Nitro-α-Methylbenzylamine
To a suspension of 3-nitro-α-methylbenzylamine (1.12 g, 6.74 mmol) in dichloromethane (75 mL) was added a solution of di-tert-butyldicarbonate (1.76 g, 8.09 mmol) in dichloromethane (25 mL). After overnight stirring at room temperature, the reaction was washed with 10% citric acid (2×250 mL), dried over magnesium sulfate, filtered, and the solvent was removed under reduced pressure to afford the title compound which was used in subsequent reactions without further purification.

reactant | 3-nitro-α-methylbenzylamine | 6.74 mmol, 1.12 g | [N+](=O)([O-])C=1C=C(C(C)N)C=CC1 | C8H10N2O2
reactant | di-tert-butyldicarbonate | 8.09 mmol, 1.76 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-t-Butyloxycarbonyl-3-Nitro-α-Methylbenzylamine | C(C)(C)(C)OC(=O)NC(C1=CC(=CC=C1)[N+](=O)[O-])C | C13H18N2O4
